US07855216B2
Step 2: 3-(2-Fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ((S)-2-hydroxy-propoxy)-amide
TBAF (1.71 ml, 1N solution in THF, 1.71 mmol) was added to a solution of 3-(2-fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid [(S)-2-(tert-butyldimethylsilanyloxy)-propoxy]-amide (171 mg, 0.29 mmol) in THF (3 ml) and the reaction heated at 45° C. for 4.5 hours. The reaction was concentrated in vacuo and the resultant residue purified by flash chromatography (SiO2, gradient 0-10% methanol in dichloromethane) to yield the title compound as a yellow solid (35 mg, 25%). 1H NMR (DMSO-D6, 400 MHz) 8.54 (1H, s), 8.27 (1H, d, J=5.7 Hz), 7.56-7.50 (2H, m), 7.48 (1H, dd, J=11.0, 2.1 Hz), 7.16-7.13 (1H, m), 6.18 (1H, t, J=8.9 Hz), 3.81 (3H, s), 3.74-3.67 (1H, m), 3.57-3.55 (2H, m), 0.95 (3H, d, J=5.99 Hz). LCMS (method A): RT=5.82 min, M+H+=485.

reactant | TBAF | 1.71 mmol, 1N, 1.71 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 3-(2-fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid [(S)-2-(tert-butyldimethylsilanyloxy)-propoxy]-amide | 0.29 mmol, 171 mg | [Si](C)(C)(C(C)(C)C)O[C@H](CONC(=O)C1=C(C=2C=NC=CC2N1C)NC1=C(C=C(C=C1)I)F)C | C24H32FIN4O3Si
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 3-(2-Fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ((S)-2-hydroxy-propoxy)-amide | 35 mg, 25% | O[C@H](CONC(=O)C1=C(C=2C=NC=CC2N1C)NC1=C(C=C(C=C1)I)F)C | C18H18FIN4O3
